US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-(2-chloro-4-phenoxyphenyl)-1-methyl-1H-1,2,4-triazole (Compound No. 241)
A mixture of N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (3.30 g), 2-chloro-4-phenoxybenzonitrile (2.30 g), anhydrous iron (III) chloride (1.60 g) and o-dichlorobenzene (10 ml) is stirred at an oil bath temperature of 140° C. for 1 hour. After cooling, the reaction mixture is dissolved in chloroform (100 ml), washed with dilute hydrochrolic acid, dilute aqueous solution of sodium hydroxide and saline in this order, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 0.15 g of desired compound (melting point: 135.0°-140.0° C.).

reactant | N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 3.30 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C | C15H13Cl2FN2O2S
reactant | 2-chloro-4-phenoxybenzonitrile | 2.30 g | ClC1=C(C#N)C=CC(=C1)OC1=CC=CC=C1 | C13H8ClNO
reactant | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iron (III) chloride | 1.60 g | [Fe](Cl)(Cl)Cl
product | 3-(2-chloro-6-fluorophenyl)-5-(2-chloro-4-phenoxyphenyl)-1-methyl-1H-1,2,4-triazole | 0.15 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(C=C(C=C1)OC1=CC=CC=C1)Cl)C | C21H14Cl2FN3O
